US08497368B2
Isonicotinic acid [1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-eth-(E)-ylidene]-hydrazide
The title compound (27.9 mg, 64%) was synthesized from 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone (30.0 mg, 0.09 mmol) and isonicotinic acid hydrazide (38.3 mg, 0.28 mmol) using the same procedure as described in the synthesis of example 72. 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.75, 11.39 (bs, 1H), 9.51 (s, 1H), 8.93 (dd, 1H), 8.79 (m, 2H), 8.42 (d, 1H), 8.20 (d, 1H), 7.836 (m, 3H), 7.54 (dd, 1H), 6.25 (s, 2H), 2.49 (s, 3H). LCMS (method E): [MH]+=442, tR=4.59 min.

reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone | 0.09 mmol, 30.0 mg | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)C(C)=O | C16H11FN6O
reactant | isonicotinic acid hydrazide | 0.28 mmol, 38.3 mg | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
product | Isonicotinic acid [1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-eth-(E)-ylidene]-hydrazide | 27.9 mg, 64% | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)\C(\C)=N\NC(C2=CC=NC=C2)=O | C22H16FN9O
